US07572820B2
A. 1,1-Dimethylethyl [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetate
Synthesized as described in Example 4 using 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile, t-butyl bromoacetate (1.5 eq) and Cs2CO3 (1.5 eq) with MeCN as the solvent (in a sealed tube): MS (ES) m/z 341 (M+1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | t-butyl bromoacetate | 1.5 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Cs2CO3 | 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | CC#N | C2H3N
product | 1,1-Dimethylethyl [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetate | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)OC(C)(C)C)C(F)F | C16H15ClF2N2O2
